US04056536
A solution of 9-amino-11H-pyrrolo[2,1-b] [3]-benzazepin-11-one in triethyl orthoformate (2.17 g., 10 mmoles in 80 ml.) is refluxed for 5 hrs. The volatiles are removed under vacuum and the residue, dissolved in 100 ml. absolute ethanol is stirred in an ice bath as sodium borohydride (0.88 g., 0.024 moles) is added over a period of 10 minutes. The mixture is stirred for a period of 2 hrs. After concentration of the ethanol, the residue is dissolved in ethyl acetate, washed with water, dried over Na2SO4 and concentrated to dryness to yield 9-methylamino-11H-pyrrolo[2,1-b] [3]benzazepin-11-one as a brown amorphous solid.

reactant | 9-amino-11H-pyrrolo[2,1-b] [3]-benzazepin-11-one | NC1=CC2=C(C=CN3C(C2=O)=CC=C3)C=C1 | C13H10N2O
reactant | triethyl orthoformate | 10 mmoles, 80 ml, 2.17 g | C(OCC)(OCC)OCC | C7H16O3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | 0.024 moles, 0.88 g | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-methylamino-11H-pyrrolo[2,1-b] [3]benzazepin-11-one | CNC1=CC2=C(C=CN3C(C2=O)=CC=C3)C=C1 | C14H12N2O
